US08957064B2
2-methyl-6-phenyl-5-(4-{[3-(5-pyridin-2-yl-1,2,4-triazol-3-yl)azetidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine
77 mg (0.38 mmol) 2-(5-azetidine-3-yl-[1,2,4]triazol-3-yl)-pyridine hydrochloride salt was dissolved in 6 mL methanol and 0.1 mL triethylamine. After addition of 100 mg (0.31 mmol) 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde dissolved in 6 mL DMF, 0.06 mL acetic acid and 131 mg (0.76 mmol) NaBH(OAc)3 the reaction mixture was stirred at room temperature. Three additional portions of 2 equivalents NaBH(OAc)3 each were added after 2, 4 and 6 hours. The solvent was removed by evaporation and the residue was purified by chromatography on silica gel (dichloromethane/methanol) to yield 42 mg of the desired product.

reactant | 2-(5-azetidine-3-yl-[1,2,4]triazol-3-yl)-pyridine hydrochloride salt | 0.38 mmol, 77 mg | Cl.N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1
reactant | 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.31 mmol, 100 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | acetic acid | 0.06 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.76 mmol, 131 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2 equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 6 mL | CO | CH4O
solvent | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-methyl-6-phenyl-5-(4-{[3-(5-pyridin-2-yl-1,2,4-triazol-3-yl)azetidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine | 42 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)=N1 | C29H25N9
